Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a background history of CAD, status post DES to RCA and 
___, HTN, HLD, GERD, and insomnia, who presented with 
chest pain and palpitations.

Patient was in his usual state of health until two nights ago, 
when he developed palpitations at rest, followed by chest 
discomfort. Chest discomfort felt similar to symptoms 
experienced when he underwent his stents in ___, burning in 
nature and non-radiating. Resolved spontaneously about 30 
minutes later, but subsequently developed similar symptoms last 
night. Pain again occurred after onset of palpitations and 
improved, but did not resolve, in about 30 minutes. Given 
persistence of discomfort, patient presented to ED. Denies 
shortness of breath, light-headedness, dizziness, orthopnea, PND 
or lower extremity edema. 

On further questioning, patient denies any exertional symptoms 
in recent weeks, including chest pain or palpitations. In fact, 
between episodes of palpitations and chest pain, patient with no 
symptoms, including when ambulating.

In the ED, initial VS signs notable for;
Temp 98.1  HR 89  BP 125/100  RR 18  SaO2 97% RA 

Examination was notable for irregular rapid rate, clear lungs 
bilaterally, no JVP elevation, and 1+ lower extremity edema.

Labs notable for;
WBC 11.2  Hgb 17.0  Plt 250
___ 10.6  PTT 27.9  INR 1.0
NA 147  K 3.5  Cl 110  HCO3 22  BUN 26  Cr 1.1  Gluc 105
Trop <0.01

Urine studies notable for small blood, 100 protein and few 
bacteria; otherwise unremarkable 

EKG notable for LBBB and atrial fibrillation at rate of 134

CXR demonstrated right lower lung opacity, which may represent 
pneumonia in the right clinical setting, and mild pulmonary 
edema. 

Cardiology were consulted; chest pain likely related to new AF 
with RVR, primary ACS seems less likely, recommend rate control, 
aspirin 324mg, heparin drip and admission to ___. 

Patient was given;
- IV metoprolol 5mg x3
- IV diltiazem 15mg 
- IV heparin 6400 unit bolus and drip at 1450 unit per hour
- PO diltiazem 30mg 

Transfer VS were notable for;
HR 89  BP 123/77  RR 16  SaO2 97% RA 
 
Upon arrival to the floor, patient repeats the above story. Also 
adds, although he is prescribed aspirin 81mg and clopidogrel 
75mg daily, he does not take aspirin as prescribed. Suffers with 
headaches, tension sounding in nature, which only resolve with 
extra strength Excedrin. Patient chose not to take daily baby 
aspirin, as he takes Excedrin at least every other day, and 
feels
he is receiving sufficient doses of aspirin with this. Otherwise 
denies any other issues. Does report vague history of possible 
intermittent palpitations over the years, for which he never 
presented to the ED.
 
10-point review of systems otherwise negative. 
 
Past Medical History:
GERD
HTN 
Diverticulosis
rhabdo 
h/o rheumatic fever 
aldosterone secreting adenoma treated with radioactive iodine 
ablation 
lithotripsy for renal calculi 
 
Social History:
___
Family History:
His father died of postoperative complications in ___ at the 
age of ___.  His mother is still alive actually living in a 
___ now having had a stroke.  She is ___ years 
old.  He has a sister who is alive and well and a daughter who 
is alive and well.  There is no family history of cancer or 
diabetes that he knows of.

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
=====================================
VS: Temp: 97.7 PO BP: 100/72 HR: 84 RR: 19 O2 sat: 94% RA 
GENERAL: lying comfortably in bed, no distress
HEENT: AC/NT, EOMI, PERRL, no conjunctival pallor, anicteric 
sclera, MMM
NECK: supple, non-tender, no elevated JVP
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: warm, well perfused, no lower extremity edema
NEURO: A/O x3, CN II-XII intact, strength ___ in all 
extremities, sensation intact.
 

DISCHARGE PHYSICAL EXAMINATION: 
=====================================
24 HR Data (last updated ___ @ 1219)
    Temp: 97.4 (Tm 98.9), BP: 172/82 (129-172/70-90), HR: 53
(53-66), RR: 17 (___), O2 sat: 95% (93-97), O2 delivery: Ra,
Wt: 169.3 lb/76.79 kg (164.9-169.3)  

GENERAL: sitting up comfortably in bed, no distress
HEENT: AC/NT, EOMI, PERRL, no conjunctival pallor, anicteric 
sclera, MMM
NECK: supple, non-tender, no elevated JVP
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: warm, well perfused, no lower extremity edema
NEURO: A/O x3, CN II-XII intact, strength ___ in all 
extremities, sensation intact.
 
Pertinent Results:
ADMISSION LABS
========================
___ 06:09AM BLOOD WBC-11.2* RBC-5.48 Hgb-17.0 Hct-48.4 
MCV-88 MCH-31.0 MCHC-35.1 RDW-13.7 RDWSD-43.8 Plt ___
___:09AM BLOOD Neuts-59.9 ___ Monos-9.2 Eos-4.0 
Baso-0.6 Im ___ AbsNeut-6.72* AbsLymp-2.88 AbsMono-1.03* 
AbsEos-0.45 AbsBaso-0.07
___ 06:09AM BLOOD ___ PTT-27.9 ___
___ 06:09AM BLOOD Glucose-105* UreaN-26* Creat-1.1 Na-147 
K-3.5 Cl-110* HCO3-22 AnGap-15
___ 06:09AM BLOOD cTropnT-<0.01
___ 06:09AM BLOOD TSH-6.0*
___ 06:09AM BLOOD Free T4-1.4

RELEVANT IMAGING
=========================
___ CXR AP
Right lower lung opacity, may represent pneumonia in the right 
clinical 
setting.  Mild pulmonary edema. 

___ TTE
CONCLUSION:
The left atrial volume index is normal. No thrombus/mass is seen 
in the body of the left atrium (best excluded by TEE) There is 
no evidence for an atrial septal defect by 2D/color Doppler. The 
estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. Left ventricular cardiac index is low normal 
(2.0-2.5 L/min/m2). There is no resting left ventricular outflow 
tract gradient. No ventricular septal defect is seen. Normal 
right ventricular cavity size with normal free wall motion. The 
aortic sinus is mildly dilated with mildly dilated ascending 
aorta. The aortic arch is mildly dilated. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. There is trace aortic regurgitation. The mitral valve 
leaflets appear structurally normal with no mitral valve 
prolapse. There is mild [1+] mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is physiologic 
tricuspid regurgitation. The estimated pulmonary artery systolic 
pressure is high normal. There is a trivial pericardial 
effusion.

IMPRESSION: 
Normal biventricular cavity sizes, regional/global systolic 
function. Mild mitral regurgitation with normal valve 
morphology. MIldly dilated thoracic aorta.

___ STRESS
INTERPRETATION:
This ___ year old man with a history of DES to RCA 
amd D1 ___, HTN, HLD, PAF, LBBB and CP was referred to the lab 
for 
evaluation. The patient exercised for 5.5 minutes of a modified 
___ 
protocol and asked the test to be stopped for fatigue. The 
estimated 
peak MET capacity was 4.3 which represents a poor functional 
capacity 
for his age. During exercise, he reported a progressive ___ 
chest 
discomfort that resolved with rest in recovery by minute 8.5. 
The ST 
segments are uninterpretable for ischemia in the setting of the 
baseline 
IVCD progressing to a complete LBBB. The rhythm was sinus with 
rare 
isolated vpbs. Blunted HR on beta blocker with appropriate BP 
response 
to exercise and recovery. 

IMPRESSION: 
Anginal type symptoms with uninterpretable ST segment 
changes to a low workload. Nuclear report will be sent 
separately. 

___ PHARMACOLOGIC MIBI
Final interpretation pending. 

DISCHARGE LABS
=========================
___ 04:07AM BLOOD WBC-11.8* RBC-4.97 Hgb-15.3 Hct-44.0 
MCV-89 MCH-30.8 MCHC-34.8 RDW-13.7 RDWSD-44.5 Plt ___
___ 04:07AM BLOOD Glucose-104* UreaN-23* Creat-1.1 Na-147 
K-3.7 Cl-111* HCO3-24 AnGap-12
___ 04:07AM BLOOD Calcium-8.7 Phos-2.9 Mg-1.7
 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of 
coronary artery disease status post DES to RCA and D1 in 
___, hypertension, hyperlipidemia, GERD, and insomnia who 
presented with chest pain and palpitations, found to have new 
atrial fibrillation with rapid ventricular response. He was rate 
controlled and anticoagulated, and he converted back to sinus 
rhythm by discharge. He underwent a nuclear stress test, which 
did not show any defects.

====================
ACUTE ISSUES:
====================
#Atrial fibrillation
#LBBB
Patient presented with multiple episodes of palpitations, 
followed by chest pain, prompting admission to the ED. 
Examination was not concerning, and troponin <0.01 though only 
on one set. EKG was notable for rate >130 bpm and new LBBB 
(although previously had IVCD), and new atrial fibrillation with 
CHADSVASC of 3 (age, HTN, vascular). He received IV metoprolol 
5mg x3, IV diltiazem 15mg, and PO diltiazem 30mg, with adequate 
rate control. He was then transitioned to metoprolol 6.25mg Q6H 
(he is on metoprolol XL 12.5mg daily at home) and well 
rate-controlled on that. He was transitioned to 25mg metoprolol 
XL by discharge. He was also started on a heparin drip, which 
was transitioned to warfarin 5mg daily by discharge, with plan 
for close follow-up by PCP ___. The trigger for the 
atrial fibrillation was unclear. While a CXR showed a possible 
RLL consolidation, the patient did not have other signs or 
symptoms to suggest a pneumonia. TSH mildly elevated, but free 
T4 normal. 

#Chest pain
#Coronary artery disease status post drug-eluting stent to RCA 
and D1
The patient presented with multiple episodes of palpitations, 
followed by chest pain. Troponin <0.01 in the ED, though only 
one set was obtained. EKG did not show any evidence of ischemia. 
During the exercise stress test, the patient experienced a 
progressive ___ chest discomfort that resolved, and EKG did not 
show interpretable ST segment changes due to his baseline IVCD 
that progressed to a LBBB with increased HR. The nuclear 
perfusion scan did not show any evidence of ischemia. The 
patient did not have any further episodes of chest pain while 
admitted. In terms of his antiplatelet agents, the patient was 
taking Plavix 75mg daily at home, and also takes Excedrin (which 
contains 250mg aspirin) almost daily. Per discussion with his 
outpatient cardiologist, given that he was started on 
anticoagulation with warfarin 5mg daily for his new atrial 
fibrillation, Plavix was discontinued on discharge. Instead, the 
patient was instructed to either take an Excedrin daily for his 
headaches, or if he does not take an Excedrin, to take aspirin 
81mg at night.

====================
CHRONIC ISSUES:
====================
#Hypertension
The patient was continued on home enalapril 30mg daily. His BPs 
were up to 160-170s/80-90s while admitted.

#Hyperlipidemia
The patient was continued on pravastatin 40mg daily.

#GERD
The patient is not on prescribed treatment and did not require 
any in-house.

#Lung nodules
___ low-dose screening CT showed stable lung nodules that 
showed be followed in 12 months.

====================
MEDICATION CHANGES
====================
[ ] NEW: warfarin 5mg daily. 
[ ] NEW: aspirin 81mg daily. 
[ ] CHANGED: metoprolol succinate XL was increased to 25mg daily
[ ] STOPPED: clopidogrel (Plavix) 75mg daily

====================
TRANSITIONAL ISSUES:
====================
INR ON DISCHARGE: 1.0
PTT ON DISCHARGE: 71.6
HGB ON DISCHARGE: 15.3

INR GOAL: 2.0-3.0

[ ] Referral sent to ___ clinic, requires follow 
up of INR and establishment with clinic. Does not require 
bridging.
[ ] Please check INR + CBC ___, titrate warfarin as needed for 
goal ___.

[ ] PCP ___
[ ] Cardiology ___

[ ] HYPERTENSION: consider uptitration of antihypertensives
[ ] LUNG NODULES: consider repeat low-dose screening CT in ___
[ ] STATIN: consider switching to rosuvastatin given low risk of 
myalgia and higher-intensity statin

#CODE: Full
#CONTACT: ___, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 12.5 mg PO DAILY 
2. Enalapril Maleate 30 mg PO DAILY 
3. Pravastatin 40 mg PO QPM 
4. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY:PRN please take if you did not take 
Excedrin in the same day 
RX *aspirin 81 mg 1 tablet(s) by mouth daily as neede Disp #*30 
Tablet Refills:*2 
2.  Warfarin 5 mg PO DAILY Duration: 7 Doses 
RX *warfarin 5 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0 
3.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once daily 
Disp #*30 Tablet Refills:*2 
4.  Enalapril Maleate 30 mg PO DAILY  
5.  Pravastatin 40 mg PO QPM  
6.Outpatient Lab Work
I48.0 Please check PTT, ___, CBC on ___ and fax results 
to PCP ___ at ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=====================
#Atrial fibrillation
#Atypical Chest pain
#Coronary artery disease status post drug-eluting stent to RCA 
and D1

SECONDARY DIAGNOSES
=====================
#Hypertension
#Hyperlipidemia
#GERD
#Lung nodules

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure taking care of you at the ___ 
___!

WHY WERE YOU IN THE HOSPITAL?
You had chest pain and palpitations.

WHAT HAPPENED IN THE HOSPITAL?
- You were found to have an abnormal heart rhythm (atrial 
fibrillation) that was fast.
- You were given medications to slow down the heart rate.
- You were also given a blood thinner to decrease your risk of a 
stroke due to your abnormal heart rhythm.

WHAT SHOULD YOU DO ONCE YOU GO HOME?
- Please take all your medications as prescribed and attend all 
your doctor's appointments.
- Please follow up with your ___ clinic. You will be 
contacted by this clinic on ___ or ___.
- Please have your blood work checked on ___.

It was our pleasure taking care of you at the ___! We wish you 
all the best.
Your ___ Healthcare Team

MEDICATION CHANGES
[ ] NEW: warfarin 5mg daily. You will hear from the ___ 
clinic or Dr. ___ by ___, about any changes. If 
not, please call Dr. ___.
[ ] NEW: aspirin 81mg daily. Please take this only if you did 
not take Excedrin in the same day.
[ ] CHANGED: metoprolol succinate XL was increased to 25mg daily
[ ] STOPPED: clopidogrel (Plavix) 75mg daily
 
Followup Instructions:
___